US07732604B2
To a cooled (0° C.) solution of (R)-tert-butyl 1-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)pyrrolidin-3-ylcarbamate (111 mg, 0.249 mmol) in tetrahydrofuran (2.0 mL) was added sodium hydride (60% dispersion in mineral oil, 15 mg, 0.37 mmol). After 30 minutes at 0° C., a solution of methyl iodide (23 uL, 0.37 mmol) in tetrahydrofuran (0.5 mL) was added dropwise over 15 minutes. The reaction mixture was allowed to warm to room temperature as the ice bath melted, stirred overnight, then quenched by adding water (1.0 mL). The tetrahydrofuran was removed in vacuo and the remaining aqueous solution was diluted with ethyl acetate (100 mL). The organic solution was washed with water (20 mL), brine (20 mL), dried (MgSO4), filtered and concentrated. The crude product was purified by flash chromatography using a Horizon purification system on a 25S column eluting with chloroform/acetone (2-20%) to afford tert-butyl methyl{(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}carbamate (104 mg, 91%)

reactant | (R)-tert-butyl 1-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)pyrrolidin-3-ylcarbamate | 0.249 mmol, 111 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC2=NC=C(N=C21)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C23H26N8O2
reactant | sodium hydride | 0.37 mmol, 15 mg | [H-].[Na+]
reactant | methyl iodide | 0.37 mmol, 23 uL | CI | CH3I
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | tert-butyl methyl{(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}carbamate | 104 mg, 91% | CN(C(OC(C)(C)C)=O)[C@H]1CN(CC1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C24H28N8O2
